US07030116B2
3-Benzylsulfanyl-2-(tetrahydro-pyran-4-yloxymethyl)-propionic acid ethyl ester (2a)
A suspension of 2-(tetrahydro-pyran-4-yloxymethyl)-acrylic acid ethyl ester (2.2 g, 10.2 mmol) in ethanol (100 ml) was treated with a solution of NaHCO3 (0.86 g, 10.2 mmol) in water ml (10 ml) and benzyl mercaptan (1.21 ml, 10.2 mmol) at room temperature overnight. Ethanol evaporated off under reduced pressure, crude partitioned between ethyl acetate and water, organic layer separated and purified by mplc eluting with 1:9 to 2:8 v/v ethyl acetate-heptane mixture to give the title compound as pale yellow oil (1.27 g). MS: 339 (MH+); LCMS (Protocol B) retention time 4.3 minutes.

reactant | 2-(tetrahydro-pyran-4-yloxymethyl)-acrylic acid ethyl ester | 10.2 mmol, 2.2 g | C(C)OC(C(=C)COC1CCOCC1)=O | C11H18O4
reactant | NaHCO3 | 10.2 mmol, 0.86 g | C(=O)(O)[O-].[Na+]
reactant | benzyl mercaptan | 10.2 mmol, 1.21 ml | C(C1=CC=CC=C1)S | C7H8S
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 3-Benzylsulfanyl-2-(tetrahydro-pyran-4-yloxymethyl)-propionic acid ethyl ester | 1.27 g | C(C)OC(C(CSCC1=CC=CC=C1)COC1CCOCC1)=O | C18H26O4S
